US06288077B1
Step A: N-Tert-butoxycarbonyl-(2R)-3,3-dicyclohexylalanine
A solution of N-tert-butoxycarbonyl-(2R)-3,3-diphenylalanine (10 mmol) in ethanol is placed under hydrogen for one night in the presence of Rh/C (0.5 g). After removal of the catalyst by filtration, the solvent is evaporated off to yield the expected product.

reactant | N-tert-butoxycarbonyl-(2R)-3,3-diphenylalanine | 10 mmol | C(C)(C)(C)OC(=O)N[C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C20H23NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | Rh/C | 0.5 g | [Rh] | Rh
product | N-Tert-butoxycarbonyl-(2R)-3,3-dicyclohexylalanine | C(C)(C)(C)OC(=O)N[C@H](C(C1CCCCC1)C1CCCCC1)C(=O)O | C20H35NO4
